US07842685B2
A slurry of cesium fluoride (0.310 g, 2.04 mmol), copper(I) iodide (0.0194 g, 0.102 mmol), tetrakis(triphenylphosphine) palladium (0) (0.0590 g, 0.0510 mmol), methyl 1-((4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate (0.400 g, 1.02 mmol), tributyl(1-(4-fluorophenyl)-vinyl)stannane (0.504 g, 1.22 mmol) in 2 mL DMF was sealed and heated to 45° C. overnight. The reaction mixture became purple/black and was allowed to stir at ambient temperature for 24 h. The reaction mixture was diluted with EtOAc and filtered through celite, then the filtrate was washed with water. The water layer was removed, and the EA layer was treated with DCM until only slightly cloudy, the organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting material was purified by silica gel chromatography, 0-100% EA/hexanes to give methyl 1-((3-fluoro-4-(5-(1-(4-fluorophenyl)vinyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate as an orange solid. MS (ESI) m/z: calculated: 477.1; Observed: 478.1 (M++1).

reactant | cesium fluoride | 2.04 mmol, 0.310 g | [F-].[Cs+]
reactant | methyl 1-((4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | 1.02 mmol, 0.400 g | ClC1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F | C18H15ClFN3O2S
reactant | tributyl(1-(4-fluorophenyl)-vinyl)stannane | 1.22 mmol, 0.504 g | C(CCC)[Sn](C(=C)C1=CC=C(C=C1)F)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 0.102 mmol, 0.0194 g | [Cu]I
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.0510 mmol, 0.0590 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 1-((3-fluoro-4-(5-(1-(4-fluorophenyl)vinyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C(=C)C1=CC=C(C=C1)F)CN1CC(C1)C(=O)OC | C26H21F2N3O2S
